US09255090B2
To a solution of ethyl 4-aminophenylacetate (1.79 g, 10 mmol, 1 eq.) in MeCN (50 mL), N-bromsuccinimide (1.78 g, 10 mmol, 1 eq.) was added slowly. The mixture was stirred at r.t. for 72 hours. The reaction mixture was concentrated in vacuo. The residue was partitioned between water (50 mL) and Et2O (50 mL). The org. phase was washed with sat. aq. NaCl soln. (1×50 mL), dried over MgSO4, and concentrated in vacuo to give (4-amino-3-bromo-phenyl)-acetic acid ethyl ester as an orange oil. The product was used without further purification.

reactant | ethyl 4-aminophenylacetate | 10 mmol, 1.79 g, 1 eq. | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | N-bromsuccinimide | 10 mmol, 1.78 g, 1 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | MeCN | 50 mL | CC#N | C2H3N
product | (4-amino-3-bromo-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)N)Br)=O | C10H12BrNO2
